US07067665B2
N-(1-Pyridin-4-yl-ethyl)-formamide
1-Pyridin-4-yl-ethanone (24.2 g, 199.77 mmol) and 10 ml of formic acid were heated to 180° C. and formamide (126 g, 2.797 mol) in 10 ml of formic acid was added within 30 min. The mixture was stirred for 90 min., cooled and poured in 100 ml of water. After addition of conc. sodium hydroxide solution until pH13 the product was extracted with diethyl-ether. The organic layer was dried with MgSO4 and evaporated. Purification by distillation (165° C./4 mbar) yields pure product.

reactant | 1-Pyridin-4-yl-ethanone | 199.77 mmol, 24.2 g | N1=CC=C(C=C1)C(C)=O | C7H7NO
reactant | formamide | 2.797 mol, 126 g | C(=O)N | CH3NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | water | 100 ml | O | H2O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | N-(1-Pyridin-4-yl-ethyl)-formamide | N1=CC=C(C=C1)C(C)NC=O | C8H10N2O
